2103-01-27 08:12:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint: Left Hip pain, left hip revision
   Reason for ICU transfer: Hyperkalemia
   24 Hour Events:
   [**1-26**]
   - Hyperkalemia resolved
   - PM HCT stable
   - Got CTA because tachycardia did not respond to fluids or blood,
   prelim read negative for PE although significant motion artifact
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2103-1-26**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-1-27**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (98.9
   HR: 122 (121 - 133) bpm
   BP: 124/88(97) {91/48(62) - 146/88(97)} mmHg
   RR: 17 (14 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 142.9 kg (admission): 102.1 kg
   Height: 57 Inch
             Total In:
                                                                  4,093 mL
                                                                    659 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  2,913 mL
                                                                    659 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,600 mL
                                                                    965 mL
   Urine:
                                                                  1,410 mL
                                                                    965 mL
   NG:
   Stool:
   Drains:
                                                                    190 mL
   Balance:
                                                                  2,493 mL
                                                                   -306 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   GEN: Obese middle aged gentleman, strange affect, NAD, looks
   comfortable
   CV: Tachycardic, RR, no RMG
   PULM: CTAB with reduced breath sounds, no WRR
   ABD: Protuberant, obese, NTND, +BS
   EXT: No edema, good distal pulses, still TTP of R hip
   Labs / Radiology
   56 K/uL
   8.6 g/dL
   139 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.3 mEq/L
   16 mg/dL
   105 mEq/L
   136 mEq/L
   24.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2103-1-26**]  04:42 AM
                             [**2103-1-26**]  05:08 AM
                             [**2103-1-26**]  10:59 AM
                             [**2103-1-26**]  08:28 PM
                             [**2103-1-27**]  04:11 AM
   WBC
   18.1
   7.9
   Hct
   25.4
   23.3
   25.6
   24.9
   Plt
   94
   56
   Cr
   0.8
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   26
   Glucose
   127
   139
   Other labs: PT / PTT / INR:17.3/34.4/1.5, CK / CKMB /
   Troponin-T:763/6/<0.01, Lactic Acid:1.6 mmol/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Imaging: CTA [**2103-1-26**]
   1. Severely limited study due to motion artifact. No definite evidence
   of
   pulmonary embolism within the main, primary or secondary branches of
   the
   pulmonary artery. The subsegmental arteries cannot be evaluated due to
   motion artifact.
   2. Patchy nodular opacities in the right upper lobe and right middle
   lobe,
   most compatible with infectious etiology such as pneumonia or
   aspiration. Clinical correlation is recommended. Non-specific minimally
   prominent mediastinal and gastrohepatic lymph nodes.
   3. Main pulmonary artery measures up to 3.2 cm in diameter which may
   represent a component of pulmonary artery hypertension.
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   This is a 53 year old male with a history of anxiety, HTN, COPD, and
   thrombocytopenia s/p left hip replacement revision now with
   hyperkalemia.
   .
   # Hyperkalemia
 Resovled. etiology unclear as patient with normal
   potassium immediately post-op (4.7) but then up to 7.0.  Could be
   secondary to RBC lysis from cell [**Doctor Last Name 971**], decreased renal function from
   dehydration, LR, or some combination of the above.  Peripheral blood
   samples were not lysed and K+ remained elevated on repeat checks, but
   trended downward. ABG to confirm that patient is not acidotic and
   retaining
 negative. Repeat K+ - normalized. Held on kayexalate given
   lack of bowel sounds
   .
   # Tachycardia - Above patient's pre-op baseline but somewhat improved
   today.  Possibly secondary to pain, PE not definitively ruled out as
   CTA was poor study.  No signs of overload on CXR or pulmonary exam.
   However no improvement after blood and fluids, got CTA, prelim negative
   for PE although enlarged PA, likely secondary to COPD. Pt denies
   drinking alcohol since [**2-13**].
   - F/u CTA final read.
   - Bl LENIs given moderate suspicion as no great explanation for
   persistent tachycardia
   .
   # Thrombocytopenia: Trending back towards baseline after plt
   transfusion, prior w/u previously unrevealing.
   - PM CBC, ortho to f/u
   .
   # Coaggulopathy: INR 1.5, no baseline in our system. Per OSH reports,
   pt with e/o cirrhosis, possibly from alcoholism vs NASH.
   - Monitor
   - Vitamin K contraindicated as pt at high risk for PE
   .
   # Leukocytosis - Likely secondary to operation. Completely resolved.
   .
   # s/p L hip revision -
   - posterior precautions
   - vancomycin per ortho protocol
   - calcium & vitamin D
   - PT/OT consults
   - f/u ortho recs
   .
   FEN: IVF prn, replete electrolytes, regular diet
   .
   Prophylaxis: Lovenox sc, famotidine, bowel regimen
   .
   Pain management: Naproxen, acetaminophen
   - DC PCA
   - Convert to PO pain regimen today per ortho post-op protocol
   .
   ICU Care
   Nutrition: Regular diet cardiac healthy
   Glycemic Control:
   Lines:
   18 Gauge - [**2103-1-26**] 03:45 AM
   Prophylaxis:
   DVT: Lovenox PPX dosing
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments: Patient, daughter [**Name (NI) 914**] [**Name (NI) 9130**]
   [**Telephone/Fax (1) 13457**].
   Code status: Full
   Disposition: Call out to ortho floor today (12R)

2103-01-29 07:43:00 Physician Resident Progress Note
Chief Complaint: ? aspiration
   24 Hour Events:
   - was transiently on BiPap, improved and was switched to nc
   - concerned for ileus, but KUB was unremarkable.
   - CXR w/o any active disease
   - now at baseline mental and respiratory status
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   No current abx
   Vancomycin - [**2103-1-26**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis, +
   flatus
   Pain: [**4-12**] Moderate
   Pain location: hip
   Flowsheet Data as of  [**2103-1-29**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 98 (89 - 122) bpm
   BP: 102/57(67) {88/55(63) - 145/90(103)} mmHg
   RR: 9 (9 - 19) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 142.9 kg (admission): 102.1 kg
   Height: 57 Inch
                  Total In:
                                                                    960 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    520 mL
   Urine:
                                                                  1,205 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -795 mL
                                                                   -520 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   FiO2: 35%
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Wheezes :
   scattered)
   Abdominal: Non-tender, Bowel sounds present, Distended, No(t) Tender:
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   124 K/uL
   9.2 g/dL
   142 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.6 mEq/L
   37 mg/dL
   104 mEq/L
   139 mEq/L
   27.0 %
   11.2 K/uL
        [image002.jpg]
                             [**2103-1-26**]  04:42 AM
                             [**2103-1-26**]  05:08 AM
                             [**2103-1-26**]  10:59 AM
                             [**2103-1-26**]  08:28 PM
                             [**2103-1-27**]  04:11 AM
                             [**2103-1-29**]  03:51 AM
   WBC
   18.1
   7.9
   11.2
   Hct
   25.4
   23.3
   25.6
   24.9
   27.0
   Plt
   94
   56
   124
   Cr
   0.8
   0.6
   1.0
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   26
   Glucose
   127
   139
   142
   Other labs: Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Imaging:
   KUB [**1-28**]
   IMPRESSION: Limited study demonstrating unremarkable bowel gas pattern.
   CXR [**1-28**]
   One portable view. Comparison with [**2103-1-25**]. The lungs remain clear. The
   heart and mediastinal structures are unremarkable. The bony thorax is
   grossly
   intact. There is no significant change.
   Assessment and Plan
   This is a 53 year old male with a history of anxiety, HTN, COPD, and
   thrombocytopenia s/p left hip replacement revision now found
   unresponsive on the floor with concern for an aspiration event. Now
   much improved without evidence of aspiration.
   # Unresponsiveness
   Patient found unresponsive with brown secretions. His ABG was
   consistent with an acute respiratory acidosis. Likely [**1-9**] apnea
   insetting of post-op pain medications, probable OSA.
   -- improved
   -- respiratroy and mental status at baseline
   -- would consider outpatient sleep study
   # Respiratory distress
   Initial concern for SBO and aspiration.  Likely was secondary to apneic
   event. Has been afebrile (low grade) and CXR unchanged. No e/o illeus
   on KUB.
   -- NGT if e/o obstruction/ileus
   -- aspiration precautions
   # low grade fevers, bibasilar crackles
   With distended abdomen (at baseline) and pain, likely atelectasis
   -- IS 10x/hr
   # s/p L hip revision
   - f/u ortho recs
   - Naproxen, dilaudid
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   S/P Left total Hip Arthroplasty, Revision
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   ICU Care
   Nutrition:
   Sips, advance per ortho recs
   Glycemic Control:
   Lines:
   20 Gauge - [**2103-1-28**] 10:50 AM
   14 Gauge - [**2103-1-28**] 10:51 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication: Patient, daughter [**Name (NI) 914**] [**Name (NI) 9130**] [**Telephone/Fax (1) 13457**]
   Comments:
   Code status: Full code
   Disposition:Transfer to floor

2103-01-29 10:03:00 Physician Attending Progress Note
Chief Complaint: Unresponsiveness, apnea
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Postop from hip replacement, decreased responsiveness in setting of
   pain meds/sedation and component of undiagnosed OSA
   24 Hour Events:
   Tolerated BiPAP yesterday for a few hours, did not require overnight.
   Passing flatus
                                           History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2103-1-29**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 97 (89 - 122) bpm
   BP: 121/61(76) {88/55(63) - 145/90(103)} mmHg
   RR: 14 (9 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 142.9 kg (admission): 102.1 kg
   Height: 57 Inch
                  Total In:
                                                                    960 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    685 mL
   Urine:
                                                                  1,205 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -795 mL
                                                                   -685 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   FiO2: 35%
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, left > right
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   124 K/uL
   142 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.6 mEq/L
   37 mg/dL
   104 mEq/L
   139 mEq/L
   27.0 %
   11.2 K/uL
        [image002.jpg]
                             [**2103-1-26**]  04:42 AM
                             [**2103-1-26**]  05:08 AM
                             [**2103-1-26**]  10:59 AM
                             [**2103-1-26**]  08:28 PM
                             [**2103-1-27**]  04:11 AM
                             [**2103-1-29**]  03:51 AM
   WBC
   18.1
   7.9
   11.2
   Hct
   25.4
   23.3
   25.6
   24.9
   27.0
   Plt
   94
   56
   124
   Cr
   0.8
   0.6
   1.0
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   26
   Glucose
   127
   139
   142
   Other labs: PT / PTT / INR:17.3/34.4/1.5, CK / CKMB /
   Troponin-T:544/6/<0.01, Lactic Acid:1.6 mmol/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Imaging: KUB:  unremarkable gas pattern, not consistent with SBO
   Assessment and Plan
 H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH):  In setting of pain meds/sedation.
 OSA:  Given crowded posterior oropharynx, obesity likely component of
   OSA exacerbated in setting of pain meds/sedation.  No documented
   apneas, desaturation overnight off BiPAP. Will need outpatient sleep
   study, can have pulmonary consult service see him on the floor to
   arrange.  Minimize sedatives.
 LEFT HIP REPLACEMENT:  Management as per ortho, on LVW heparin
   prophylaxis, getting PT.  Stable for transfer back to the ortho
   service.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2103-1-28**] 10:50 AM
   14 Gauge - [**2103-1-28**] 10:51 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :Transfer to floor
   Total time spent: 30 minutes